US07112582B2
Step 2: Preparation of 2,3-dihydropyrazolo[5,1-b][1,3]oxazole-6-methanol:
To the stirred solution of ethyl2,3-dihydropyrazolo[5,1-b][1,3]oxazole-6-carboxylate (5.47 g, 35 mmol) of in 100 ml of THF was added 1.05 g of lithium borohydride and 1.54 g of methanol. The solution was heated at 40° C. for 2.5 hour. The reaction was quenched by 1N HCl, and adjusted to pH 1.3 and stirred at room temperature for 1 hour. The reaction mixture was adjusted pH to 8 with k2CO3. The reaction mixture was extracted with ethyl acetate. The organic layer was dried over MgSO4, and concentrated to an oil and column chromatographyed to give 2.68 g of the desired product (65%).

reactant | ethyl2,3-dihydropyrazolo[5,1-b][1,3]oxazole-6-carboxylate | 35 mmol, 5.47 g | C(C)OC(=O)C1=NN2C(OCC2)=C1 | C8H10N2O3
reactant | lithium borohydride | 1.05 g | [BH4-].[Li+]
reactant | methanol | 1.54 g | CO | CH4O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2,3-dihydropyrazolo[5,1-b][1,3]oxazole-6-methanol | 2.68 g, 65% | O1C=2N(CC1)N=C(C2)CO | C6H8N2O2
